US05120744
2-(4-Aminophenoxymethyl)quinoline
117.8 g (0.42 mol) of 2-(4-nitrophenoxymethyl)quinoline were dissolved in 1 l of methanol/tetrahydrofuran (1:1). About 5 g of Raney nickel were added and the mixture was warmed to 35° C. 63.1 g (1.26 mol) of hydrazine hydrate were then added dropwise and the mixture was stirred overnight. The residue was filtered off, the solution was concentrated in vacuo and the residue was taken up with methylene chloride. The solution was then washed with water and conc. hydrochloric acid was added to the organic phase. The precipitate which deposited was filtered off, washed with 2N hydrochloric acid and dissolved in water, and the solution was rendered alkaline with 20% strength NaOH. The residue was dried in vacuo.

reactant | 2-(4-nitrophenoxymethyl)quinoline | 0.42 mol, 117.8 g | [N+](=O)([O-])C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C16H12N2O3
reactant | hydrazine hydrate | 1.26 mol, 63.1 g | O.NN
solvent | methanol tetrahydrofuran | 1 l | CO.O1CCCC1
catalyst | Raney nickel | 5 g | [Ni] | Ni
product | 2-(4-Aminophenoxymethyl)quinoline | NC1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C16H14N2O
